US04727081
N-Methyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide
1.62 g (5 mmol) of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide are dissolved in 30 ml of THF, 0.40 g (6 mmol) of methylisocyanate are added and the reaction mixture is left to stand overnight at room temperature. Ether is added to complete the precipitation, and the precipitate is suction filtered, washed with ether and recrystallised from ethanol. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide | 5 mmol, 1.62 g | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | methylisocyanate | 6 mmol, 0.40 g | CN=C=O | C2H3NO
reactant | Ether | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-Methyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide | CNC(=O)NNC(=S)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H29N5O2S
